US08912219B2
Step 8: 4-(1-Methanesulfonyl-piperidin-4-yloxy)-phenylamine
A mixture of 1-methanesulfonyl-4-(4-nitro-phenoxy)-piperidine (9.07 g, 30.2 mmol), iron powder (˜325 mesh, 5.05 g, 90.6 mmol), ammonium chloride solution (6.46 g, 120.8 mmol) in water (50 mL) and EtOH (IMS grade, 150 mL) was heated at reflux for 2 hours. The cooled mixture was filtered through Celite® washing with DCM and the organic solvent removed under vacuum. The remaining aqueous was diluted with water and extracted into DCM (3×). The combined extracts were dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-10% EtOAc in DCM) followed by trituration from Et2O afforded the title compound (5.71 g, 70%) as an off white solid. 1H NMR (300 MHz, DMSO) δ 6.70 (d, J=8.5 Hz, 2H), 6.50 (d, J=8.5 Hz, 2H), 4.65 (br s, 2H), 4.22 (m, 1H), 3.32 (m, 2H), 3.07 (m, 2H), 2.88 (s, 3H), 1.90 (m, 2H), 1.67 (m, 2H). LCMS (m/z, Method A) ES+ 271.0 [M+1]+.

reactant | 1-methanesulfonyl-4-(4-nitro-phenoxy)-piperidine | 30.2 mmol, 9.07 g | CS(=O)(=O)N1CCC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O5S
reactant | ammonium chloride | 120.8 mmol, 6.46 g | [Cl-].[NH4+]
solvent | water | 50 mL | O | H2O
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | iron | 90.6 mmol, 5.05 g | [Fe] | Fe
product | 4-(1-Methanesulfonyl-piperidin-4-yloxy)-phenylamine | 5.71 g, 70% | CS(=O)(=O)N1CCC(CC1)OC1=CC=C(C=C1)N | C12H18N2O3S
